US07713994B2
4-Methoxycarbonylmethyl-2-phenyl-pyrimidine-5-carboxylic Acid
A solution of 3.00 g (14.0 mmol) of 4-Methyl-2-phenyl-pyrimidine-5-carboxylic Acid and 2.53 g (28.0 mmol) of dimethyl carbonate in 75 mL of THF is added dropwise with rapid overhead stirring to a slurry of 6.00 g (56.1 mmol) of LDA in 24 mL of THF at −78° C. The mixture is stirred at 25° C. for 5 h and then chilled to −78° C. The reaction is added all at once and rapidly (overhead stirring) to 81 mL (1.40 mol) of glacial HOAc in 210 mL of THF, also held at −78° C. The mixture is warmed to 25° C. and the THF and some HOAc is removed. Water (180 mL) is added and the product is extracted into EtOAc. The extract is washed with H2O (5×), dried (MgSO4) and evaporated. The residue is dissolved in excess aqueous NaHCO3 and extracted with Et2O (5×). These washes were discarded. The aqueous solution is acidified with 2M HCl and extracted with Et2O. The ethereal extracts were backwashed with H2O (6×), dried (MgSO4) and evaporated to give 3.4 g (89%) of orange crystals: mp 173-175° C. (dec); 1H NMR (DMSO-d6) δ 9.29 (s, 1H), 8.44 (m, 2H), 7.60 (m, 3H), 4.45 (s, 2H), 3.65 (s, 3H); MS (ESI) m/z 271.0 (M−H). Analysis for C14H12N2O: Calcd: C, 61.76; H, 4.44; N, 10.29. Found: C, 61.90; H, 4.73; N, 10.11.

reactant | 4-Methyl-2-phenyl-pyrimidine-5-carboxylic Acid | 14.0 mmol, 3.00 g | CC1=NC(=NC=C1C(=O)O)C1=CC=CC=C1 | C12H10N2O2
reactant | dimethyl carbonate | 28.0 mmol, 2.53 g | C(OC)(OC)=O | C3H6O3
reactant | LDA | 56.1 mmol, 6.00 g | [Li+].CC(C)[N-]C(C)C
reactant | HOAc | 1.40 mol, 81 mL | CC(=O)O | C2H4O2
solvent | THF | 75 mL | C1CCOC1 | C4H8O
solvent | THF | 24 mL | C1CCOC1 | C4H8O
solvent | THF | 210 mL | C1CCOC1 | C4H8O
product | 4-Methoxycarbonylmethyl-2-phenyl-pyrimidine-5-carboxylic Acid | 3.4 g, 89% | COC(=O)CC1=NC(=NC=C1C(=O)O)C1=CC=CC=C1 | C14H12N2O4
